US08012956B2
To a solution of ethyl 6-bromo-2-methyl-5-(pentan-3-ylamino)nicotinate (1.202 g, 3.65 mmol) in acetonitrile (30 ml) was added sodium cyanide (0.357 g, 7.3 mmol), tributyltin chloride (1.306 g, 4.015 mmol) and Pd(dpppf)3 (0.298 g, 0.365 mmol). The reaction mixture was stirred at 88° C. overnight. The reaction mixture was diluted with water (100 ml), then extracted with ethyl acetate (3×100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate and brine. After evaporation of solvent, ethyl 6-cyano-2-methyl-5-(pentan-3-ylamino)nicotinate (0.59 g, 59% yield) was obtained by column chromatography. 1H NMR (400 MHz, CDCl3): 7.56 (s, 1H), 4.50 (q, J=6.8 Hz, 2H), 4.35 (br, s, 1H), 3.40 a9m, 1H), 2.64 (s, 3H), 1.80-1.50 (m, 4H), 1.42 (t, J=6.8 Hz, 3H), 1.0 (t, 6H). MS (EI) for C15H21N3O2: 276.2 (MH+).

reactant | ethyl 6-bromo-2-methyl-5-(pentan-3-ylamino)nicotinate | 3.65 mmol, 1.202 g | BrC1=NC(=C(C(=O)OCC)C=C1NC(CC)CC)C | C14H21BrN2O2
reactant | sodium cyanide | 7.3 mmol, 0.357 g | [C-]#N.[Na+]
reactant | tributyltin chloride | 4.015 mmol, 1.306 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | ethyl 6-cyano-2-methyl-5-(pentan-3-ylamino)nicotinate | 0.59 g, 59% yield | C(#N)C1=NC(=C(C(=O)OCC)C=C1NC(CC)CC)C | C15H21N3O2
